US07521570B2
As for preferred example of producing 6-hydroxybenzbromarone according to the present invention, it can be produced as follows. That is, for example, 2-acetyl-6-methoxy-benzofuran is reduced using hydrazine to obtain 2-ethyl-6-methoxy-benzofuran, which is then reacted with acid chloride of 4-methoxy-benzoic acid under the presence of tin tetrachloride to yield 2-ethyl-6-methoxy-3-(p-methoxy-benzoyl)-benzofuran. And then methoxy group of benzoyl group is selectively deprotected under the presence of ethane thiol sodium salt to yield 2-ethyl-6-methoxy-3-(p-hydroxy-benzoyl)-benzofuran, which is then brominated by sodium-N-bromosuccinimide under the presence of dimethyl sulfide to obtain 2-ethyl-6-methoxy-3-(3′,5′-dibromo-4′-hydroxy-benzoyl)-benzofuran, and then methoxy group at sixth place is deprotected under the presence of aluminum chloride.

reactant | 6-hydroxybenzbromarone | CCC1=C(C=2C=CC(=CC2O1)O)C(=O)C=3C=C(C(=C(C3)Br)O)Br | C17H12Br2O4
reactant | 2-acetyl-6-methoxy-benzofuran | C(C)(=O)C=1OC2=C(C1)C=CC(=C2)OC | C11H10O3
reactant | hydrazine | NN | H4N2
product | 2-ethyl-6-methoxy-benzofuran | C(C)C=1OC2=C(C1)C=CC(=C2)OC | C11H12O2
